* Z:\mnt\design.r\spice\examples\1374HV.asc
C2 N001 N002 .27µ
L1 N002 OUT 5µ
R1 OUT N004 5.36K
R2 0 N004 4.99K
D1 0 N002 MBRS340
D2 OUT N001 1N914
V1 IN 0 12
C3 N006 N005 .005µ
C1 OUT 0 100µ
R3 N006 0 10K
XU1 IN N001 N004 0 OUT N005 N003 N002 LT1374 top=10 bot=1T
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1374.sub
.backanno
.end
